US04680296
1.2. 1-[2-[4-[(2-Pyridinyl)(phenyl)hydroxymethyl]-1-piperidinyl]ethyl]-1,3-dihydro-2(2H)-benzimidazolone
2.5 g (10-2 mole) of 4-[(2-pyridinyl)(phenyl)hydroxymethyl]piperidine, 2.5 g (10-2 mole) of 1-(1-bromo-2-ethyl)-1,3-dihydro-2(2H)-benzimidazolone, 1.2 g of Na2CO3, one crystal of NaI and 75 ml of methyl isobutyl ketone are introduced into a round flask.

reactant | 4-[(2-pyridinyl)(phenyl)hydroxymethyl]piperidine | 10-2 mole, 2.5 g | N1=C(C=CC=C1)C(C1CCNCC1)(O)C1=CC=CC=C1 | C17H20N2O
reactant | 1-(1-bromo-2-ethyl)-1,3-dihydro-2(2H)-benzimidazolone | 10-2 mole, 2.5 g | BrCCN1C(NC2=C1C=CC=C2)=O | C9H9BrN2O
reactant | Na2CO3 | 1.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | [Na+].[I-]
solvent | methyl isobutyl ketone | 75 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[2-[4-[(2-Pyridinyl)(phenyl)hydroxymethyl]-1-piperidinyl]ethyl]-1,3-dihydro-2(2H)-benzimidazolone | N1=C(C=CC=C1)C(C1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O)(O)C2=CC=CC=C2 | C26H28N4O2
